* /Users/manoelribeiroalmeida/dev/trit/LTspice/TXOR.asc
.subckt TXOR a b vcc vee out
XU1 N002 b N003 Scr
XU2 N001 a N002 Scr
XU3 out N001 N001 Scr
XU4 a b vcc vee N003 TOR
XU5 a b vcc vee out TNAND
.inc thyristr.lib
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TNAND.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.sub
.backanno
.ends
